US07786132B2
(ii) N-(2-(Thiophen-3-yl)ethyl)benzamide
2-(Thiophen-3-yl)ethanamine hydrochloride (3 g, 18 mmol) was taken in THF (40 mL) and treated with triethylamine (9.92 mL, 71.2 mmol). The reaction was cooled down to 0° C. and benzoyl chloride (2.55 mL, 21.9 mmol), diluted with THF was added dropwise to the reaction. The reaction was stirred for 3 h and the volatiles removed in vacuo. The residue was dissolved in ethyl acetate and washed with an aqueous saturated solution of sodium bicarbonate, water and brine. The organic solution was dried with sodium sulfate and purified by flash chromatography using a gradient of 25 to 70% ethyl acetate in hexanes to afford an off-white solid (4 g). MS (M+H)+ 232.

reactant | 2-(Thiophen-3-yl)ethanamine hydrochloride | 18 mmol, 3 g | Cl.S1C=C(C=C1)CCN
reactant | triethylamine | 71.2 mmol, 9.92 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 21.9 mmol, 2.55 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-(2-(Thiophen-3-yl)ethyl)benzamide | 4 g | S1C=C(C=C1)CCNC(C1=CC=CC=C1)=O | C13H13NOS
